US07361687B2
[(4-cyanophenyl)methyl]methylcarbamic acid, phenylmethyl ester
A mixture of 7 g (47.9 mM) of [(4-cyanophenyl)methyl]methanamine is prepared in 60 ml of DCM and 5.8 g (57.5 mM) of triethylamine are added. The mixture is cooled to 0° C. and a solution of 9.8 g (57.5 mM) of benzyl chloroformate in 20 ml of DCM is added dropwise. The mixture is then agitated for 20 hours at ambient temperature and then washed with a solution of 0.1 N hydrochloric acid, and then with water, dried over sodium sulphate and concentrated under reduced pressure. The residue is purified by chromatography on silica gel in eluting with the aid of a mixture of toluene/ethyl acetate (95/5; v/v). 11.4 g of the desired product are thus obtained as an oil (yield=87%).

reactant | [(4-cyanophenyl)methyl]methanamine | 47.9 mM, 7 g | C(#N)C1=CC=C(C=C1)CCN | C9H10N2
reactant | triethylamine | 57.5 mM, 5.8 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 57.5 mM, 9.8 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | [(4-cyanophenyl)methyl]methylcarbamic acid, phenylmethyl ester | 11.4 g | C(#N)C1=CC=C(C=C1)CN(C(OCC1=CC=CC=C1)=O)C | C17H16N2O2
